US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-(S)-hydroxy-1-(S)-methoxymethyl-2-phenylethyl)amide
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18, 223 mg, 1.13 mmol) and commercially available (1S,2S)-(+)-2-amino-3-methoxy-1-phenyl-1-propanol (200 mg, 1.10 mmol) in DMF (5 mL) was added HOBt (173 mg, 1.13 mmol), DIPEA (0.42 mL, 2.41 mmol) and EDCI (260 mg, 1.36 mmol). After stirring at rt for 12 h the mixture was added to diluted brine (100 mL, water/brine: 1/1). Extraction with ethyl acetate (4×25 mL), washing of the combined extracts with diluted hydrochloric acid (1M, 30 ml), diluted aqueous sodium hydroxide solution (1M, 30 ml) and brine (30 mL) followed by drying over magnesium sulphate gave after concentration a residue which was purified by flash chromatography on silica gel (eluent: ethyl acetate). The title compound was obtained as colourless solid. δH (CD3OD): 3.37 (3H, s), 3.34 (1H, dd), 3.66 (1H, dd), 4.53 (1H, ddd), 5.03 (1H, d), 7.15 (1H, s), 7.25-7.45 (5H, 3m), 7.68 (1H, s), 8.58 (1H, s); m/z (ES+)=360.22 [M+H]+; RT=3.12 min.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 1.13 mmol, 223 mg | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | (1S,2S)-(+)-2-amino-3-methoxy-1-phenyl-1-propanol | 1.10 mmol, 200 mg | N[C@H]([C@@H](O)C1=CC=CC=C1)COC | C10H15NO2
reactant | HOBt | 1.13 mmol, 173 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 2.41 mmol, 0.42 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.36 mmol, 260 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | brine | 100 mL | [Cl-].[Na+].O
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-(S)-hydroxy-1-(S)-methoxymethyl-2-phenylethyl)amide | O[C@H]([C@H](COC)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1)C1=CC=CC=C1 | C18H18ClN3O3
